US04533688
(b) 2-Chloro-4,6-bis[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine
To a solution of 18.4 g of cyanuric chloride in 200 ml of dioxane was added dropwise, with stirring, a solution of 43.6 g of 4-butylamino-2,2,6,6-tetramethylpiperidine in 100 ml of dioxane at 20°-25° C. The mixture was stirred at the same temperature for 2 hours, after which it was stirred at 60°-70° C. for 2 hours. At the end of this time, the dioxane was distilled off and the residue was poured into a 10% aqueous solution of potassium carbonate and extracted with ethyl acetate. The extract was dried over anhydrous potassium carbonate, and then the ethyl acetate was distilled off. The resulting oil was purified by column chromatography through silica gel, eluted with a 20:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine, to give the title compound in the form of crystals melting at 40°-42° C.

reactant | cyanuric chloride | 18.4 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-butylamino-2,2,6,6-tetramethylpiperidine | 43.6 g | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-4,6-bis[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine | ClC1=NC(=NC(=N1)N(C1CC(NC(C1)(C)C)(C)C)CCCC)N(CCCC)C1CC(NC(C1)(C)C)(C)C | C29H54ClN7
